US04259489
2,3-Dicyano-5,6-dichloropyrazine (1.00 g; 0.005 mole) and 0.47 g of ethanethiol were dissolved in 50 ml of acetone. The solution was cooled to -15° to -10° C., and a solution of 0.40 g (0.005 mole) of pyridine in 40 ml of water was added dropwise over the period of 30 minutes. The mixture was worked up in the same way as in Example 26 to afford 0.33 g (yield 29%) of 2,3-dicyano-5-chloro-6-ethylthiopyrazine.

reactant | 2,3-Dicyano-5,6-dichloropyrazine | 0.005 mole, 1.00 g | C(#N)C1=NC(=C(N=C1C#N)Cl)Cl | C6Cl2N4
reactant | ethanethiol | 0.47 g | C(C)S | C2H6S
reactant | pyridine | 0.005 mole, 0.40 g | N1=CC=CC=C1 | C5H5N
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | water | 40 ml | O | H2O
product | 2,3-dicyano-5-chloro-6-ethylthiopyrazine | 0.33 g, yield 29% | C(#N)C1=NC(=C(N=C1C#N)Cl)SCC | C8H5ClN4S
